### PR TITLE
feat(Dynamics/BirkhoffSum): birkhoffAverage const

### PR DESCRIPTION
**Pull request by samueloettl**
---

I think this is useful and one of these should be a simp lemma.
I'm not really sure if I got the naming of the theorems correct.

When generalizing to the assumption (n : R) ≠ 0 instead of the special case CharZero R with n ≠ 0 I had to use "open Classical in". I'm a bit unfamiliar with that part so please check if this makes sense. See also https://github.com/leanprover-community/mathlib4/pull/35307#discussion_r2823586252

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 1]
```diff
@@ -77,6 +77,28 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
     (g : α → M) {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n x = g x := by
   rw [birkhoffAverage, h.birkhoffSum_eq, ← Nat.cast_smul_eq_nsmul R, inv_smul_smul₀ hn]
 
+theorem Function.const.birkhoffAverage_eq₀ {f : α → α} (a : M) {n : ℕ} (hn : (n : R) ≠ 0)
+    (x : α) : birkhoffAverage R f (fun _ ↦ a) n x = a := by
+  rw [birkhoffAverage, birkhoffSum, Finset.sum_const, Finset.card_range, ← Nat.cast_smul_eq_nsmul R,
+    inv_smul_smul₀ hn]
```
Comment (Maldooor) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]: Perhaps do
```suggestion
  simp [hn, birkhoffAverage, birkhoffSum, ← Nat.cast_smul_eq_nsmul R]
```
instead?

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 2]
```diff
@@ -77,6 +77,28 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
     (g : α → M) {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n x = g x := by
   rw [birkhoffAverage, h.birkhoffSum_eq, ← Nat.cast_smul_eq_nsmul R, inv_smul_smul₀ hn]
 
+theorem Function.const.birkhoffAverage_eq₀ {f : α → α} (a : M) {n : ℕ} (hn : (n : R) ≠ 0)
```
Comment (Maldooor) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]: Maybe the name
```suggestion
theorem Function.birkhoffAverage_const_eq₀ {f : α → α} (a : M) {n : ℕ} (hn : (n : R) ≠ 0)
```
would be more appropriate (and similarly for subsequent lemmas), given that the statement does not mention `Function.const`.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 3]
```diff
@@ -77,6 +77,28 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
...
+    (x : α) : birkhoffAverage R f (fun _ ↦ a) n x = a := by
+  rw [birkhoffAverage, birkhoffSum, Finset.sum_const, Finset.card_range, ← Nat.cast_smul_eq_nsmul R,
+    inv_smul_smul₀ hn]
+
+theorem Function.const.birkhoffAverage_eq₀' {f : α → α} (a : M) {n : ℕ} (hn : (n : R) ≠ 0) :
```
Comment (Maldooor) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]: Are both versions really needed? (And same question for `Function.const.birkhoffAverage_eq` and `Function.const.birkhoffAverage_eq'`)

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 2 above)
Comment (Maldooor) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]: You might want to pull out `{f : α → α}` to a variable.

**Review by Maldooor — COMMENTED** [review]
Thanks!

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 2 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: I chose this to be analogous to the IsFixedPt one. (It's also definitionally equal to using Function.const in the statement.)
I chose to not write Function.const explicitly because simp automatically unfolds the definition of Function.const and I don't want simp to get confused with which lemma to apply first.
I don't know what the convention is here but you are probably right.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 3 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: You are right, they are gone now.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 2 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: Agreed.

**Comment by samueloettl** [comment]
@Maldooor  Thanks for the suggestions they are all implemented.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 4]
```diff
@@ -77,6 +77,20 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
     (g : α → M) {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n x = g x := by
   rw [birkhoffAverage, h.birkhoffSum_eq, ← Nat.cast_smul_eq_nsmul R, inv_smul_smul₀ hn]
 
+theorem Function.birkhoffAverage_const_eq₀ (f : α → α) (a : M) {n : ℕ} (hn : (n : R) ≠ 0) :
```
Comment (lua-vr) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]:
```suggestion
theorem birkhoffAverage_const₀ (f : α → α) (a : M) {n : ℕ} (hn : (n : R) ≠ 0) :
```

`Function.birkhoffAverage_const_eq₀` and similar also do not fit the namespace conventions as they are not about functions in general. I think they should not have any namespaces. Also, I think `_eq` at the end is usually reserved for when a definition is equal to something (`definition_eq`). Otherwise, you would have `something_eq_something_else`.

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: thanks, will fix

Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: I would also prefer if you used `'` instead of `₀`, as these are usually used in the context of measure theory, where `₀` usually means it's an `ae` version of some lemma.

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: thanks

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: ahh wait just for me to understand
```
theorem birkhoffAverage_const_eq' (f : α → α) {g : α → M} {a : M} (h : g = fun _ ↦ a) {n : ℕ} (hn : (n : R) ≠ 0) :
    birkhoffAverage R f g n = g := sorry
```
this would be the naming if we had that version?

Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: This but without the `_eq` at the end (see the neighbouring lemmas, and the heuristic in the message above)

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: The theorem from my question is not the same as the one from the pull request. I changed it to be similar to `Function.IsFixedPt.birkhoffAverage_eq` because I wanted to know if I understood when the _eq should be added at the end. My current understanding is that the naming should be done like this:
```
theorem birkhoffAverage_const' (f : α → α) (a : M) {n : ℕ} (hn : (n : R) ≠ 0) :
    birkhoffAverage R f (fun _ ↦ a) n = fun _ ↦ a := sorry

theorem Function.const.birkhoffAverage_const' (f : α → α) {g : α → M} {a : M} (h : g = const _ a)
    {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n = g := sorry

theorem birkhoffAverage_const_eq' (f : α → α) {g : α → M} {a : M} (h : g = fun _ ↦ a)
    {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n = g := sorry
```
would these names be correct?

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 5]
```diff
@@ -77,6 +77,20 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
...
+
+open Classical in
+@[simp]
+theorem birkhoffAverage_const (f : α → α) (a : M) (n : ℕ) :
+    birkhoffAverage R f (fun _ ↦ a) n = fun _ ↦ if (n : R) = 0 then 0 else a := by
+  by_cases h : (n : R) = 0
+  · ext
+    simp [h, birkhoffAverage]
+  simp [h, birkhoffAverage_const']
+
```
Comment (mcdoll) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean:93]: I am not convinced that we need this, there is already `birkhoffAverage_zero'`, which is marked `simp` and proves the `n = 0` case.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 6]
```diff
@@ -77,6 +77,20 @@ theorem Function.IsFixedPt.birkhoffAverage_eq {f : α → α} {x : α} (h : IsFi
     (g : α → M) {n : ℕ} (hn : (n : R) ≠ 0) : birkhoffAverage R f g n x = g x := by
   rw [birkhoffAverage, h.birkhoffSum_eq, ← Nat.cast_smul_eq_nsmul R, inv_smul_smul₀ hn]
 
+theorem birkhoffAverage_const' (f : α → α) (a : M) {n : ℕ} (hn : (n : R) ≠ 0) :
+    birkhoffAverage R f (fun _ ↦ a) n = fun _ ↦ a := by
```
Comment (mcdoll) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Can you add a version
```
theorem birkhoffAverage_const (f : α → α) (a : M) {n : ℕ} (x : α) (hn : (n : R) ≠ 0) :
    birkhoffAverage R f (fun _ ↦ a) n x = a := by
```
? This seems to be consistent with the rest of the file.

**Review by mcdoll — COMMENTED** [review]
Thanks. I am not sure about the second lemma, but the first one was definitively missing.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 5 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:93]: firstly they are not quite the same: the one you mentioned only proves the less general case where (n : ℕ) = 0 (instead of (n : R) = 0)

secondly I do think there is an advantage in simp automatically pulling stuff apart as soon as g is a constant function

but yes, maybe we could also state and prove a version with general g and the hypothesis (n : R) = 0 seperately

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 6 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: it is indeed consistent with the rest of the file but personally I dont think we should have these "apply" versions at all

could we get a second opinion on this?

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: (happy to revert deleting them if you all think its necessary)

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: also @Maldooor thought these versions were not necessary

Comment (mcdoll) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: I would be happy if you delete them. Having them there sometimes and sometimes not is just bad.
I am not too convinced about their use either, because there should be no case in which `birkhoffAverage_one` applies, but `birkhoffAverage_one'` doesn't. I am not too familiar with this part of the library, however.

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: so should I just slap deprecation warnings on the "unnecessary" ones in the entire file?

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Correction: Deprecation is probably not a good idea since the ones with the ' in the name are the ones we want to keep.
So should I just delete the unnecessary ones?

Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Perhaps we could rename the current applied versions to `_apply` (like the new `IsApply` classes do). 

But it's better to keep them, because sometimes you want to `rw` and the point-free would rewrite applied terms to things like `0 x` which is undesirable, or not match at all.

**Comment by lua-vr** [comment]
could you also add `birkhoffSum_const` and tag it as `@[simp]`?

```lean
@[simp]
theorem birkhoffSum_const [AddCommMonoid M] (f : α → α) (a : M) {n : ℕ} :
    birkhoffSum f (fun _ ↦ a) n = fun _ ↦ n • a := by
  unfold birkhoffSum
  simp

theorem birkhoffSum_const_apply [AddCommMonoid M] (f : α → α) (a : M) {n : ℕ} {x : α} :
    birkhoffSum f (fun _ ↦ a) n x = n • a :=
  congrFun (birkhoffSum_const f a) x
```

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 5 above)
Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:93]: I don't think this is a good lemma either, the `n = 0` case is already covered by the other lemma so it would offer no advantage over adding `@[simp]` to the current `birkhoffAverage_const'`. I think you could delete this and the question is whether `birkhoffAverage_const'` would make sense as a simp lemma

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:93]: But the `(n : R) = 0` case is not directly covered by an other lemma (of course you can unfold the definition of `birkhoffAverage` and then use simp)
Also I do think it's useful if simp reduces the Birkhoff average to deciding if `(n : R) = 0` whenever `g` is constant because from a user perspective its much easier to just run `simp` at it instead of having to know that this depends on whether `(n : R) = 0` or not.

But anyway just let me know how you want me to proceed.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 6 above)
Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: That sounds like a good idea. Let me know if I should do that for the entire file.

Out of personal interest: What would be a case where only the `_apply` version would match? (I cant think of one...)

**Comment by samueloettl** [comment]
> could you also add `birkhoffSum_const` and tag it as `@[simp]`?
> 
> ```lean
> @[simp]
> theorem birkhoffSum_const [AddCommMonoid M] (f : α → α) (a : M) {n : ℕ} :
>     birkhoffSum f (fun _ ↦ a) n = fun _ ↦ n • a := by
>   unfold birkhoffSum
>   simp
> 
> theorem birkhoffSum_const_apply [AddCommMonoid M] (f : α → α) (a : M) {n : ℕ} {x : α} :
>     birkhoffSum f (fun _ ↦ a) n x = n • a :=
>   congrFun (birkhoffSum_const f a) x
> ```

Thank you for noticing that I missed this. I'll add these as soon as there is a consensus on the average ones.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 6 above)
Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: I don't remember exactly, but sometimes you want to rewrite something in the opposite direction (and the `0 : M` does not match `0 : α → M`).

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Thanks, that makes sense. Might also be interesting to @Maldooor

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: also maybe interesting for @mcdoll

Comment (samueloettl) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Having them sounds like a good Idea to me now. Should I rename them in the entire file to `_apply`? If so what should I do with the `'` ones? If we simply rename them to the ones without the `'` we would break downstream code even more...

Comment (lua-vr) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:81]: Given the lack of API, I don't think there is any big downstream code of mathlib using Birkhoff averages for now. If the naming convention in this file is bad, the sooner we fix it the better.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean (hunk 5 above)
Comment (plp127) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean:93]: I don't think this is a good `@[simp]` lemma, since it introduces an if-then-else. Compare with e.g. `Pi.single_apply`, which also isn't a `@[simp]` lemma.

The naming is also not as I would have expected, I would have expected this lemma to be called `birkhoffAverage_const'` (because it has a more complicated conclusion) and the other one to be called `birkhoffAverage_const` (because it seems like it's usually what you want to use).

**Comment by lua-vr** [comment]
I have created #42447 for standardizing the names in both files

**Comment by lua-vr** [comment]
@samueloettl I believe the issue about naming is resolved now; it should be made consistent with the merged PR.
